US05120743
Ethyl 5,6-dihydro-1,2-dioxo-4H-pyrrolo[3,2,1-ij]quinolin-8-ylacetate
To the refluxing mixture of oxalyl chloride (0.3 ml) in dry tetrahydrofuran (THF; 15 ml) was added ethyl 1,2,3,4-tetrahydroquinolin-6-ylacetate (500 mg) in dry THF (5 ml) dropwise. The mixture was refluxed for 4 hours after addition was completed, then cooled to room temperature and concentrated under reduced pressure. The residue was dissolved in carbon disulfide (20 ml) and added aluminum chloride (610 mg) portionwise. The mixture was refluxed for 4 hours and allowed to stand for overnight at room temperature. After decantation of the solvent, ice water (20 ml) was added to the residue. The mixture was extracted with chloroform and dried over anhydrous sodium sulfate. Evaporation of chloroform afforded the title compound. The compound was recrystallized from acetonitrile to give 490 mg (75%) of dark red needles, mp 124°-125° C.

reactant | oxalyl chloride | 0.3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethyl 1,2,3,4-tetrahydroquinolin-6-ylacetate | 500 mg | N1CCCC2=CC(=CC=C12)CC(=O)OCC | C13H17NO2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | THF | 5 ml | O1CCCC1 | C4H8O
product | Ethyl 5,6-dihydro-1,2-dioxo-4H-pyrrolo[3,2,1-ij]quinolin-8-ylacetate | O=C1C(N2CCCC3=CC(=CC1=C23)CC(=O)OCC)=O | C15H15NO4
